US07897631B2
4-But-3-ynyl-1H-imidazol-2-ylamine hydrochloride (0.0735 g, 0.428 mmol) was reacted with (3-azido-propyl) benzene, which was synthesized using previously reported methods (Suenaga et al., Tetrahedron Letters 2003, 44, 5799-5801), (0.083 g, 0.514 mmol) following the general procedure for click reactions outlined above to produce 4-{2-[1-(3-Phenyl-propyl)-1H-[1,2,3]triazol-4-yl]-ethyl}-1H-imidazol-2-ylamine hydrochloride (0.051 g, 36%) of a pale yellow oil. 1H NMR (300 MHz, CD3OD) δ 7.87 (s, 1H), δ 7.32-7.22 (m, 5H), δ 6.54 (s, 1H), δ 4.31 (t, 2H), δ 3.05 (t, 2H), δ 2.93 (t, 2H), δ 2.67 (t, 2H), δ 2.23 (m, 2H) ppm; 13C (75 MHz CD3OD) δ 153.3, 146.6, 140.4, 134.3, 128.8, 128.7, 128.6, 126.6, 121.5, 67.5, 53.9, 32.8, 32.9, 29.5 ppm; HRMS (ESI) calcd for C16H20N6 (M+) 296.1822. found 296.1828.

reactant | 4-But-3-ynyl-1H-imidazol-2-ylamine hydrochloride | 0.428 mmol, 0.0735 g | Cl.C(CC#C)C=1N=C(NC1)N
reactant | (3-azido-propyl) benzene | N(=[N+]=[N-])CCCC1=CC=CC=C1 | C9H11N3
product | 4-{2-[1-(3-Phenyl-propyl)-1H-[1,2,3]triazol-4-yl]-ethyl}-1H-imidazol-2-ylamine hydrochloride | 0.051 g, 36% | Cl.C1(=CC=CC=C1)CCCN1N=NC(=C1)CCC=1N=C(NC1)N | InChI=1S/C16H20N6.ClH/c17-16-18-11-14(19-16)8-9-15-12-22(21-20-15)10-4-7-13-5-2-1-3-6-13;/h1-3,5-6,11-12H,4,7-10H2,(H3,17,18,19);1H
